US08980886B2
Synthesis of 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}-1,3-thiazole-5-carboxylic acid
3.60 g (8.91 mmol) of methyl 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}-1,3-thiazole-5-carboxylate were dissolved in 18 ml of dioxane and 6 ml of water and 45% strength aqueous sodium hydroxide solution (10.06 mmol) was added dropwise at 0° C. The reaction was stirred for a further hour and warmed to RT. The ethanol was then removed under reduced pressure, and ice-water (10 ml) was added to the residue. The aqueous phase was extracted with ethyl acetate. The organic phase was discarded. Then the aqueous phase was adjusted to a pH of 3 using hydrochloric acid, and again extracted with ethyl acetate (3×20 ml). The combined organic phases were dried over sodium sulphate. (logP: 2.63; MH+: 390; 1H-NMR (400 MHz, DMSO, ppm): 6.65 (s, 2H), 7.36-7.55 (m, 4H).

reactant | methyl 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}-1,3-thiazole-5-carboxylate | 8.91 mmol, 3.60 g | ClC1=C(C=CC=C1)C=1N=C(SC1C(=O)OC)CN1N=C(N=N1)C(F)(F)F | C14H9ClF3N5O2S
reactant | water | 6 ml | O | H2O
reactant | sodium hydroxide | 10.06 mmol | [OH-].[Na+]
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}-1,3-thiazole-5-carboxylic acid | ClC1=C(C=CC=C1)C=1N=C(SC1C(=O)O)CN1N=C(N=N1)C(F)(F)F | C13H7ClF3N5O2S
